US07420083B2
To a stirred solution of 4-biphenylcarboxaldehyde (7.289 g, 40 mmol) in MeCN (80 ml) under nitrogen at room temperature was added methyl(triphenylphosphoranylidene)acetate (16.049 g, 48 mmol). After 18 h the reaction mixture was concentrated and the residue purified by flash chromatography, eluting with 10% EtOAc/hexane. The appropriate fractions were collected, filtered, concentrated and dried to give 3-biphenyl-4-yl-acrylic acid methyl ester (9.384 g, 39.38 mmol, 98%) as a pale yellow solid, mp 144-147° C. 1H NMR (DMSO-d6) δ 3.75 (s, 3H), 6.70 (d, 1H), 7.35-7.53 (m, 3H), 7.65-7.78 (m, 5H), 7.82 (d, 2H).

reactant | 4-biphenylcarboxaldehyde | 40 mmol, 7.289 g | C1(=CC=C(C=C1)C=O)C1=CC=CC=C1 | C13H10O
reactant | methyl(triphenylphosphoranylidene)acetate | 48 mmol, 16.049 g | COC(C=P(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)=O | C21H19O2P
solvent | MeCN | 80 ml | CC#N | C2H3N
product | 3-biphenyl-4-yl-acrylic acid methyl ester | 39.38 mmol, 9.384 g, 98% | COC(C=CC1=CC=C(C=C1)C1=CC=CC=C1)=O | C16H14O2
